US07410966B2
a) 6-Chloro-2-(4-nitrophenyl)-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine
6,7-Dichloro-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine (0.73 g, 2.4 mmol), aniline (0.70 ml) and a catalytical amount of p-toluenesulfonic acid monohydrate were dissolved in o-dichlorobenzene (4.0 ml) and heated to 180° C. for 5 h. Ethyl acetate and methanol were added, the mixture stirred and the solid filtered off to afford the title compound (0.68 g, 77%).

reactant | 6,7-Dichloro-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine | 2.4 mmol, 0.73 g | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])Cl | C12H6Cl2N4O2
reactant | aniline | 0.70 ml | NC1=CC=CC=C1 | C6H7N
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | o-dichlorobenzene | 4.0 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methanol | CO | CH4O
product | 6-Chloro-2-(4-nitrophenyl)-N-phenyl-3H-imidazo[4,5-b]pyridin-7-amine | 0.68 g, 77% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])NC2=CC=CC=C2 | C18H12ClN5O2
